Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Facial cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ L known parotid tumor, HTN, and HLD who is admitted for 
cellulitis of the face and neck. 

The patient reports that over about five days, she has noticed 
increasing firmness of her parotid mass with inflammation and 
redness overlying the area. She has not had any fever or chills 
or any difficulty breathing or swallowing.

The patient presented to ___ clinic and was seen by Dr. 
___. I do not have his note available, but it appears 
he aspirated a sample from the mass and sent it for bacterial 
and fungal cultures, then referred her to the ___. In the 
___, vitals were stable. Labs showed WBC 11.2 w/ 77% 
polys. The patient was given empiric vancomycin 1g, Zosyn 
3.375g. No further cultures were collected at ___. 

CT scan was performed, which suggested facial cellulitis with 
extrinsic compression of the jugular vein, but no clear 
parotitis or deep abscess. Findings were discussed with ___ who 
recommended transfer to ___ given the CT findings. In the 
___ ___, vitals remained stable. One blood culture was 
collected. She was seen by ENT at ___ who reviewed her imaging 
and recommended admission to medicine.

REVIEW OF SYSTEMS
GEN: denies fevers/chills
CARDIAC: denies chest pain or palpitations
PULM: denies new dyspnea or cough
GI: denies n/v, denies change in bowel habits
GU: denies dysuria or change in appearance of urine
Full 14-system review of systems otherwise negative and 
non-contributory.  
 
Past Medical History:
Tumor of the left parotid gland (probably a Warthin's tumor 
based on available records)
HTN
HLD
Glaucoma
 
Social History:
___
Family History:
Patient not able to relate FH.
 
Physical Exam:
GEN: elderly woman in NAD
ENT: EOMI, sclerae anicteric, MMM, poor dentition
Large firm but not fixed mass over the L TMJ and neck. Minimal 
overlying erythema significantly improved from prior exams  
LYMPH: no axillary or supraclavicular LAD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB
GI: soft, NT, ND, NABS
MSK: No visible joint effusions or deformities.
DERM: No visible rash. No jaundice.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
 
Pertinent Results:
WBC-10.8* RBC-3.87* HGB-12.8 HCT-39.0 MCV-101* RDW-13.8 
RDWSD-51.7*
NEUTS-71.8* LYMPHS-15.4* MONOS-11.0 EOS-0.7* BASOS-0.6 IM 
___ 

SODIUM-136 POTASSIUM-4.4 CHLORIDE-97 TOTAL CO2-27 ANION GAP-16 
UREA N-14 CREAT-0.5 

CT NECK W/ W/O AT ___ ___
Known tumor of the left parotid gland. Postcontrast enhancement 
and nodularity throughout the tumor. There is significant 
overlying subcutaneous soft tissue changes consistent with 
cellulitis that appears to be compressing the left jugular vein, 
left submandibular gland, and extending medially with a small 
amount of low density in the left parapharyngeal space extending 
towards the arytenoids. The epiglottis is not involved. 
Adenopathy left supraclavicular area noted.

___ 05:01PM   GLUCOSE-91 UREA N-14 CREAT-0.5 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-97 TOTAL CO2-27 ANION GAP-16
___ 05:01PM   estGFR-Using this
___ 05:01PM   WBC-10.8* RBC-3.87* HGB-12.8 HCT-39.0 
MCV-101* MCH-33.1* MCHC-32.8 RDW-13.8 RDWSD-51.7*
___ 05:01PM   NEUTS-71.8* LYMPHS-15.4* MONOS-11.0 EOS-0.7* 
BASOS-0.6 IM ___ AbsNeut-7.78* AbsLymp-1.67 AbsMono-1.19* 
AbsEos-0.08 AbsBaso-0.06
___ 05:01PM   PLT COUNT-233
___ 05:01PM   ___ PTT-30.3 ___ w/ L known parotid tumor, HTN, and HLD who is admitted for 
cellulitis of the face and neck. 

#FACIAL CELLULITIS
Patient had outpatient aspiration of parotid by outpatient ENT. 
Overlying cellulitis worsened and thus, she presented to ___ for 
evaluation. CT neck did suggest parotitis. Patient treated with 
vancomycin/unaysn and followed by ENT during hospitalization. 
Her erythema continued to improve and pain resolved. She was 
transitioned to Augmentin to complete a ___s was 
discussed with ENT. She is to arrange close follow up with her 
ENT Doctor at ___ to discuss surgical options for possible 
removal. 

#HTN: Home losartan continued.

#HLD: Home Zocor continued
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Simvastatin 40 mg PO QPM 
2. Losartan Potassium 50 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*20 Tablet Refills:*0 
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.  Losartan Potassium 50 mg PO DAILY  
5.  Simvastatin 40 mg PO QPM  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you during your stay at ___. You 
were admitted for cellulitis (an infection of your skin) on your 
neck. As was discussed your parotid mass has gotten larger and 
you will need close follow up with your ENT to discuss possible 
surgical options. You were treated with IV antibiotics and 
improved. The ENT service in the hospital evaluated you and 
recommended close follow up. You should continue your 
antibiotics as directed. 

Take care,
Your ___ Team
 
Followup Instructions:
___